US05186717
a) Preparation of 2,6-dinitro-4-methyl-N-(β-hydroxyethyl)aniline
0.35 mol (76 g) of 2,6-dinitro-4-methylchlorobenzene is added gradually, in the course of 10 minutes, whilst stirring, to 150 ml of ethanolamine, the reaction medium being cooled as necessary so as not to exceed 75° C. When the addition has ended, the stirring is maintained for 5 minutes and the reaction medium is then poured into 600 g of iced water. The expected product precipitates. It is filtered off, washed with water and then recrystallised from ethanol. After drying in vacuo, it melts at 131° C.

reactant | 2,6-dinitro-4-methylchlorobenzene | 0.35 mol, 76 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C)[N+](=O)[O-])Cl | C7H5ClN2O4
reactant | ethanolamine | 150 ml | C(O)CN | C2H7NO
solvent | water | 600 g | O | H2O
product | 2,6-dinitro-4-methyl-N-(β-hydroxyethyl)aniline | [N+](=O)([O-])C1=C(NCCO)C(=CC(=C1)C)[N+](=O)[O-] | C9H11N3O5
